US06235754B1
Preparation of 1-(p-Ethoxyphenyl)-2-methylpropyl Trifluoroacetate
A mixture of trifluoroacetic anhydride (18 mL) in carbon tetrachloride is cooled with an ice-water bath, treated portionwise with a solution of p-ethoxy-α-isopropylbenzyl alcohol (9.0 g) in carbon tetrachloride, stirred at room temperature for 1 hour, concentrated in vacuo, diluted with carbon tetrachloride, and concentrated in vacuo to give the title product as a brown oil (13.23 g) which is identified by NMR spectral analysis.

reactant | trifluoroacetic anhydride | 18 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | p-ethoxy-α-isopropylbenzyl alcohol | 9.0 g | C(C)OC1=CC=C(C(C(C)C)O)C=C1 | C12H18O2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(p-Ethoxyphenyl)-2-methylpropyl Trifluoroacetate | 13.23 g | FC(C(=O)OC(C(C)C)C1=CC=C(C=C1)OCC)(F)F | C14H17F3O3
